US04680310
15.5 g of 5,8-dimethoxy-1,2,3,4-tetrahydro-2-hydroxy-2-naphthaleneacetic acid in 150 ml of tetrahydrofuran were added dropwise within 15 minutes to 3.32 g of lithium aluminum hydride in 150 ml of tetrahydrofuran. The reaction mixture was heated to reflux for 1 hour and then cooled. After the dropwise addition of 15 ml of ethyl acetate and 20 ml of water the suspension was filtered and the filtrate was concentrated. The product was purified by column chromatography (silica gel, chloroform/methanol 30:1). There was obtained 5,8-dimethoxy-1,2,3,4-tetrahydro-2-hydroxy-2-naphthaleneethanol, m.p. 121°-122°.

reactant | 5,8-dimethoxy-1,2,3,4-tetrahydro-2-hydroxy-2-naphthaleneacetic acid | 15.5 g | COC1=C2CCC(CC2=C(C=C1)OC)(CC(=O)O)O | C14H18O5
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5,8-dimethoxy-1,2,3,4-tetrahydro-2-hydroxy-2-naphthaleneethanol | COC1=C2CCC(CC2=C(C=C1)OC)(CCO)O | C14H20O4
